US06046210
2-(4-(4-Phenylbenzoylamino)butyl)-7-(3-pyridyl)sulfonyloxy-1,2,3,4-tetrahydroisoquinoline
To a stored solution of 7-hydroxy-N-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline (05 g, 1.3 mmol) and triethylamine (0.21 ml; 1.5 mmol) in dichloromethane (20 ml) was added pyridine-3-sulfonyl chloride (0.25 g, 1.4 mmol). The mixture was stirred for 18 h, then partitioned between dichloromethane (4×30 ml) and saturated aqueous NaHCO3 (100 ml). Combined organic extracts were dried (Na2SO4) and evaporated in vacuo to give an oil. Chromatography on silica using 0-5% methanolethyl acetate gradient elution gave the title compound (0.06 g, 12%) as an oil.

reactant | 7-hydroxy-N-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline | 1.3 mmol | OC1=CC=C2CCN(CC2=C1)CCCCNC(C1=CC=C(C=C1)C1=CC=CC=C1)=O | C26H28N2O2
reactant | triethylamine | 1.5 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | pyridine-3-sulfonyl chloride | 1.4 mmol, 0.25 g | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(4-(4-Phenylbenzoylamino)butyl)-7-(3-pyridyl)sulfonyloxy-1,2,3,4-tetrahydroisoquinoline | 0.06 g, 12% | C1(=CC=CC=C1)C1=CC=C(C(=O)NCCCCN2CC3=CC(=CC=C3CC2)OS(=O)(=O)C=2C=NC=CC2)C=C1 | C31H31N3O4S
